US09382188B2
B) 2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-ol
To a solution of ((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)(triisopropyl)silane (3.50 g) in THF (30 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in THF (16 mL), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.30 g) as a colorless oil.

reactant | ((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)(triisopropyl)silane | 3.50 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)OCOC | C24H35FO4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-ol | 2.30 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)OCOC | C15H15FO4
